US04369187
A mixture of benzyl 3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (50 mg) and 10% palladium on powdered charcoal (50 mg) in 1:1 dioxane-H2O (5 ml) containing sodium bicarbonate (12.5 ml) is hydrogenated at 40 psi for 30 mins. The mixture is filtered and the catalyst is washed with more water (5 ml). The combined filtrate is extracted with ethyl acetate, concentrated in vacuo to ca. 2 ml, and lyophilized to yield sodium 3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 50 mg | COC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C15H15NO4
reactant | charcoal | 50 mg | C | CH4
reactant | sodium bicarbonate | 12.5 ml | C([O-])(O)=O.[Na+]
catalyst | palladium | [Pd] | Pd
solvent | dioxane H2O | 5 ml | O1CCOCC1.O
product | sodium 3-methoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | COC1=C(N2C(CC2C1)=O)C(=O)[O-].[Na+] | InChI=1S/C8H9NO4.Na/c1-13-5-2-4-3-6(10)9(4)7(5)8(11)12;/h4H,2-3H2,1H3,(H,11,12);/q;+1/p-1
